US07348432B2
6-(3-Methoxy-phenyl)-3,3-dimethyl-imidazo[1,2-a]pyridin-2-one
The title compound was prepared in 54% yield according to the procedure described in Example 2, starting from 6-bromo-3,3-dimethyl-imidazo[1,2-a]pyridin-2-one and 3-methoxyphenyl boronic acid. 1H NMR (CDCl3) δ7.86 (dd, J=2.1 and 9.2 Hz, 1H), 7.73 (d, J=1.5 Hz, 1H), 7.43-7.39 (m, 1H), 7.28-7.25 (m, 1H), 7.05 (m, 1H), 6.97-6.94 (m, 2H), 3.88 (s, 3H), 1.63 (s, 6H); MS (m/e): 269 (MH+).

reactant | 6-bromo-3,3-dimethyl-imidazo[1,2-a]pyridin-2-one | BrC=1C=CC=2N(C1)C(C(N2)=O)(C)C | C9H9BrN2O
reactant | 3-methoxyphenyl boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 6-(3-Methoxy-phenyl)-3,3-dimethyl-imidazo[1,2-a]pyridin-2-one | 54% yield | COC=1C=C(C=CC1)C=1C=CC=2N(C1)C(C(N2)=O)(C)C | C16H16N2O2
